* Z:\mnt\design.r\spice\examples\1155.asc
V1 N001 0 5
V2 N004 0 PULSE(0 5 0 100n 100n 2.5m 5m)
V3 N005 0 PULSE(0 5 0 100n 100n 2.5m 5m)
M§Q1 N003 N006 N007 N007 Si9936DY
R1 N001 N003 .03
C1 N001 N002 .1µ
R2 N003 N002 100K
M§Q2 N003 N008 N009 N009 Si9936DY
XU1 N002 N006 0 N004 N005 N001 N008 N002 LTC1155
Rload1 N009 0 10
Rload2 N007 0 10
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 20m startup
.lib LTC1155.sub
.backanno
.end
